Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Macrolide Antibiotics / Phenergan / Doxycycline / Erythromycin 
Base / Zithromax / Tetracycline
 
Attending: ___.
 
Chief Complaint:
MRSA Endocarditis
 
Major Surgical or Invasive Procedure:
___
___ placement 
 
History of Present Illness:
Ms. ___ is a ___ year old female with a history of IVDU who 
initially presented to ___ with several days 
of generalized malaise, fever to 102 and with what she thought 
was a flu-like illness. She was also complaining of anorexia, 
dysuria, nausea with some vomitting and right sided chest pain 
that worsened with deep inspiration and with any movement. In 
the ER there she was found to have leukocytosis of 21.7, with 
83% PMN's and 5% bands. She was also found to be hyponatremic to 
127, creatinine of 1.48, INR of 2 with a t. bili of 1.2. Her tox 
screen was positive for cocaine and opiate metabolites. A chest 
x-ray showed a right sided wedge shaped, possible infiltrate, so 
initially it was thought that that she had a UTI, PNA and signs 
of liver failure. She was initially admitted to ___ 
___ on ___.
.
After her admission multiple sets of blood cultures became 
positive for MRSA and there was concern that she had 
endocarditis. An echocardiogram was done that showed severe 
tricuspid insufficiency, with TR, and a vegetation that measured 
1cm x 0.6cm. A CT scan that was done to follow up her chest 
x-ray findings, showed bilateral focal pneumonia and nodular 
consolidation compatible with septic emboli. During her course 
she also developed bilateral otitis media. She was initially 
treated with vancomycin, reportedly with appropriate levels but 
then complained of hearing deficits so her antibiotic coverage 
was changed to linezolid. Most recent blood cultures from 
___ are positive for MRSA, as a result of her continued 
bacteremia it was decided that she would benefit from a tansfer 
to ___ further evaluation and treatment.
.
On the floor, her initial VS were: 99.3, 122/78, 66, 24, 97% on 
___. She is currently c/o lung/rib pain, SOB and left hip pain 
that shoots down the back of her legs. She says that the last 
time she used drugs was on ___. She denies any withdrawal 
symptoms, fever/chills, n/v/d, abdominal pain.
.
Review of sytems:
(+) Per HPI
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denied cough, shortness of breath. Denied chest pain 
or tightness, palpitations. Denied nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denied arthralgias or myalgias.
 
Past Medical History:
Untreated Hepatitis C
Asthma
 
Social History:
___
Family History:
No history of cardiac problems
 
Physical Exam:
Vitals: T:99.3 BP:122/78 P:66 R:24 O2:97% on ___
General: Alert, oriented, no acute distress
HEENT: Sclera anicteric, MMM, oropharynx clear
Neck: supple, no LAD
Lungs: tachypneic, taking shallow breaths, decreased breath 
sounds at the left base, crackles/wheezes throughout with poor 
air movement
CV: Regular rate and rhythm, normal S1 + S2, II/VII holosystolic 
murmur best heart at ___
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema, multiple needle marks along her left arm/hand
Skin: erythematous papules along her lower back and buttocks
 
Pertinent Results:
Admission Labs: 

___ 09:05PM BLOOD WBC-10.2 RBC-3.64* Hgb-9.9* Hct-30.4* 
MCV-84 MCH-27.2 MCHC-32.5 RDW-13.9 Plt ___
___ 09:05PM BLOOD ___ PTT-30.7 ___
___ 09:05PM BLOOD Glucose-88 UreaN-7 Creat-0.6 Na-138 K-4.1 
Cl-102 HCO3-28 AnGap-12
___ 09:05PM BLOOD Calcium-8.4 Phos-3.3 Mg-1.8
___ 03:51AM BLOOD HCV Ab-POSITIVE*
___ 06:10AM BLOOD HIV Ab-NEGATIVE
___ 03:51AM BLOOD CRP-96.0*
___ 05:45AM BLOOD HBsAg-NEGATIVE HBsAb-POSITIVE 
HBcAb-NEGATIVE HAV Ab-NEGATIVE
.
CT Torso: IMPRESSION: 
1. Numerous bilateral cavitary nodules throughout the lung 
parenchyma. Given
the patient's history of endocarditis, these findings are most 
consistent with
septic emboli, expected to be from the right heart.
2. No evidence of infarcts or abscesses within the visceral 
organs of the
abdomen or pelvis.
3. Two cystic lesions in the left adnexa, one of which is within 
the left
ovary and the second larger lesion likely representing an 
exophytic or
paraovarian cyst. A followup ultrasound in six weeks is 
recommended to
document resolution.
4. Hepatomegaly and borderline splenomegaly. Correlation with 
LFTs and
clinical history is recommended.
.
TEE: Conclusions
The left atrium and right atrium are normal in cavity size. A 
very small left-to-right shunt across the interatrial septum 
consistent with a small secundum atrial septal defect is present 
at rest. A catheter is seen in the right atrium near the 
tricuspid valve. Overall left ventricular systolic function is 
normal (LVEF>55%). Right ventricular chamber size and free wall 
motion are normal. The aortic valve leaflets (3) appear 
structurally normal with good leaflet excursion and no aortic 
regurgitation. No masses or vegetations are seen on the aortic 
valve. No aortic valve abscess is seen. The mitral valve appears 
structurally normal with trivial mitral regurgitation. No mass 
or vegetation is seen on the mitral valve. No mitral valve 
abscess is seen. The tricuspid valve leaflets are mildly 
thickened. There are two echodense structures on the tricuspid 
valve (probably on the anterior leaflet) consistent with 
moderate sized vegetations, each measuring approximately 1.1 
centimeters by 0.5 centimeters. Moderate eccentric tricuspid 
regurgitation. No abscess is visualized. There is no pericardial 
effusion. 
IMPRESSION: Two moderate sized tricuspid valve vegetations 
measuring 1.1 cm by 0.5 cm on the tricuspid valve. Moderate 
eccentric tricuspid regurgitation. No abscess of the tricuspid 
valve. Catheter tip visualized in the right atrium near the 
tricuspid valve. Recommend withdrawing the catheter 2 to 3 
centimeters to minimize risk of trauma to the tricuspid valve.
 
Brief Hospital Course:
 Ms. ___ is a ___ y/o female with a h/o regular ___ 
transferred from ___ with right sided MRSA 
endocarditis with persistently positive blood cultures
.
#) Endocarditis: she was transferred with a report of 
intermittently positive blood cultures for MRSA, a large 1x0.6cm 
vegetation on her tricuspid valve along with septic emboli in 
her lungs.  At the time of admission there was concern that she 
remained persistently bacteremic despite over a week of IV 
antibiotics.  Infectious disease was consulted and recommended 
removal of her PICC line, daily surveillance blood cultures, a 
TEE and continued treatment with linezolid pending daptomycin 
sensitivities.  After removal of her PICC line, all of her blood 
cultures drawn at ___ were negative, which was concerning for 
possible seeding of the PICC line causing continued positive 
blood cultures at the OSH.  In order for daptomycin 
sensitivities to be done a culture of the MRSA was transferred 
from ___ to the microbiology lab at ___ for 
daptomycin sensitivity testing, after the determination that the 
MRSA was sensitive to daptomycin her antibiotic coverage was 
changed to daptomycin.  On ___ she underwent a TEE that 
showed two moderate sized (1.1cmx0.5cm)  vegetations on her 
tricuspid valve, a small ASD,  but did find any evidence of an 
abscess or left sided involvement.  After the TEE was done 
cardiac surgery was consulted to answer the question about need 
for possible ASD repair, given the concern for possible 
embolization of part of the vegetation that could cross to the 
left side of the heart.  After evaluation by cardiac surgery 
they felt that she did not need a surgical intervention at this 
time but would need a repeat echocardiogram in ___ weeks.  At 
the time of discharge she needed to complete a 4 week course of 
IV daptomycin that began on ___.  
.
#) Pneumonia/Septic Emboli: per OSH records, CT scan with 
multiple septic emboli, nodular opacities and infiltrates and 
she initially had a 4L oxygen requirement.  At the time of 
admission a CT scan of her torso was done that showed numerous 
bilateral cavitary pulmonary nodules consistent with septic 
emboli.  As she was continued on her IV antibiotics her oxygen 
requirement and pulmonary status improved, to the point that she 
no longer had an oxygen requirement and her dyspnea was 
significantly improved.  
.
#) IV Drug Use: Patient with a history of IV heroin and cocaine 
use, up until the day prior to her admission at ___ 
___.  She was started on clonidine for help with her 
withdrawal symptoms.  With her history of IVDU and hepatitis C, 
all hepatitis serologies were checked as was HIV.  Her HIV was 
negative, and her hepatitis serologies showed that she was 
immune to hepatitis B but not A.  She was seen by social work 
who gave her information about outpatient treatment programs and 
she endorsed a desire to try to stop IV drug use after her 
discharge.  With a PICC in place she was screened for rehab 
placement, as she would not be able to leave the hospital with a 
PICC in place.  
.
#) Hepatitis C: Patient with h/o untreated Hep C, presumably 
from IVDU, this was confirmed by a positive Hepatitis C 
antibody, but her viral load was negative.  Given that she was 
not immune to hepatitis A, she was given the first vaccine in 
the Hep A series on ___, she will need to complete the 
series as an outpatient. 
.
#) Decreased Hearing: A few days into her hospital stay at 
___ she developed decreased hearing, which was thought to be 
due to combination of a bilateral otitis media and vancomycin 
ototoxicity.  In the hospital she was seen by ENT who felt that 
she had conductive hearing loss due to cerumen impaction.  After 
colace to help soften the ear wax, it was still unable to be 
removed, so she was set up with an outpatient ENT appointment 
for removal of the impacted cerumen.  
 
Medications on Admission:
Home:
Albuterol PRN
Acetaminophen PRN
.
On Transfer:
Linezolid ___ Q12H
Methadone 5mg daily
Omeprazole 20mg daily
Dexamethasone 0.1% 5gtt to both ears BID
Ciprofloxacin 0.3% 5gtt to both ears BID
Dicyclomine 20mg TID
Clonidine 0.1mg BID
Ambien 7.5mg QHS
Morphine 2mg Q4h PRN
Albuterol Nebs Q4h PRN
Tramadol 50mg Q4h PRN
 
Discharge Medications:
1. Clonidine 0.1 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
2. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
3. Dicyclomine 10 mg Capsule Sig: Two (2) Capsule PO TID (3 
times a day).  
4. Ibuprofen 400 mg Tablet Sig: ___ Tablets PO Q8H (every 8 
hours) as needed for pain .  
5. Nystatin 100,000 unit/g Cream Sig: One (1) Appl Topical BID 
(2 times a day).  
6. Zolpidem 5 mg Tablet Sig: ___ Tablets PO HS (at bedtime) as 
needed for insomnia.  
7. Heparin, Porcine (PF) 10 unit/mL Syringe Sig: Two (2) ML 
Intravenous PRN (as needed) as needed for line flush.  
8. Daptomycin 500 mg Recon Soln Sig: One (1) Recon Soln 
Intravenous Q24H (every 24 hours): To end on ___.  
9. Morphine 15 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for pain.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary: 
1. MRSA Tricuspid Endocarditis
2. Pulmonary Septic Emboli 
3. Conductive Hearing Loss due to impacted cerumen 

Secondary: 
IV drug use
Hepatitis C

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___, it was a pleasure caring for you at ___.  You 
were transferred from ___ for further 
management of MRSA endocarditis (infection of your heart valve). 
  During your stay at ___ you underwent a transesophageal 
echocardiogram to help better see the infection in your heart, 
after this study you were seen by the cardiac surgeons who felt 
that you did not need any surgical intervention at this time, 
but that you would need a repeat echocardiogram in ___ weeks for 
repeat evaluation.   You were also seen by the infectious 
disease specialists who felt that you would need a total of 4 
weeks of IV antibiotics after your blood cultures began 
negative, which was on ___.  You had a PICC line placed so 
that you could leave the hospital and still receive IV 
antibiotics.  During your stay you were also seen by the ENT 
doctors, who thought that your trouble hearing was likely 
related impacted ear wax, we tried to remove the wax but were 
unable so you will need to see the ENT doctors as ___ outpatient 
for removal as below.  
.
Changes to your medication regimen: 
1. ADDED Daptomycin 450mg every 24 hours
2. ADDED Clonidine 0.1mg twice a day 
3. ADDED Dicyclomine 20mg three times per day 
4. ADDED Omeprazole 20mg daily 
 
Followup Instructions:
___